US09333205B2
1-(4-bromo-2-methoxyphenyl)guanidine
To a solution of 4-bromo-2-methoxyaniline 7.1 g (35.1 mmol) in HCl 25% m/v 20 mL, cyanamide 20.6 g (494.3 mmol) was added in portion (1.6 g every half hour). The reaction was stirred at 60° C. for 6 hours, then cooled down to room temperature, diluted with H2O (20 mL), extracted with AcOEt (10 mL). NaOH 35% (30 mL) was added to pH>>14. The aqueous phase was extracted with AcOEt (3×50 mL), dried over Na2SO4 and concentrated to afford 8.5 g (quantitative yield) of the title compound.

reactant | 4-bromo-2-methoxyaniline | 35.1 mmol, 7.1 g | BrC1=CC(=C(N)C=C1)OC | C7H8BrNO
reactant | cyanamide | 494.3 mmol, 20.6 g | N#CN | CH2N2
solvent | HCl | Cl | ClH
solvent | H2O | 20 mL | O | H2O
product | 1-(4-bromo-2-methoxyphenyl)guanidine | 8.5 g, quantitative yield | BrC1=CC(=C(C=C1)NC(=N)N)OC | C8H10BrN3O
